US06982278B2
A mixture of 2-(4-{2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester (0.20 g, 0.410 mmol), phenyl boronic acid (0.055 g, 0.451 mmol), powdered K2CO3 (0.169 g, 1.22 mmol), potassium iodide (0.20 g, 1.20 mmol), 1,1′-bis(diphenylphosphino) ferrocene (0.023 g, 0.0414 mmol) and palladium (II) chloride (0.007 g, 0.0395 mmol) in anisole (4 mL) and then carbon monoxide was bubbled through the reaction mixture to saturate the mixture. The reaction was then heated at 80° C. in an oil bath under a carbon monoxide balloon for 2 h. The reaction was cooled, diluted with Et2O, and extracted with water and brine. The organic layer was dried (MgSO4) and the solvent removed in vacuo to give an oil that passed over a plug of silica gel to remove most of the anisole (98:2 ratio CH2Cl2:MeOH). The resultant oil was dissolved in EtOH (8 mL) and treated with 5 N NaOH (0.1 ml) at reflux for 1 h. The reaction mixture was cooled, acidified with 1 N HCl (1 mL) and the reaction mixture extracted with EtOAc and water to give 0.061 g of crude 2-[4-(2-{2-[4-(4-benzoyl-phenoxy)-phenyl]-5-methyl-oxazol-4-yl}-ethoxy)-phenoxy]-2-methyl-propionic acid that was purified by LCMS to afford 0.017 g of 2-[4-(2-{2-[4-(4-benzoyl-phenoxy)-phenyl]-5-methyl-oxazol-4-yl}-ethoxy)-phenoxy]-2-methyl-propionic acid.

reactant | 2-(4-{2-[2-(4-bromo-phenyl)-5-methyl-oxazol-4-yl]-ethoxy}-phenoxy)-2-methyl-propionic acid ethyl ester | 0.410 mmol, 0.20 g | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)Br)=O | C24H26BrNO5
reactant | phenyl boronic acid | 0.451 mmol, 0.055 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K2CO3 | 1.22 mmol, 0.169 g | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 1.20 mmol, 0.20 g | [I-].[K+]
solvent | anisole | 4 mL | C1(=CC=CC=C1)OC | C7H8O
catalyst | 1,1′-bis(diphenylphosphino) ferrocene | 0.0414 mmol, 0.023 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium (II) chloride | 0.0395 mmol, 0.007 g | [Pd](Cl)Cl
product | 2-[4-(2-{2-[4-(4-benzoyl-phenoxy)-phenyl]-5-methyl-oxazol-4-yl}-ethoxy)-phenoxy]-2-methyl-propionic acid | 0.061 g | C(C1=CC=CC=C1)(=O)C1=CC=C(OC2=CC=C(C=C2)C=2OC(=C(N2)CCOC2=CC=C(OC(C(=O)O)(C)C)C=C2)C)C=C1 | C35H31NO7
